US07671063B2
To a solution of N-[1-dimethylamino-methylidene]-2-nitro-6-methoxy-benzenesulfonamide (956 mg, 3.33 mmol) in dichloromethane (50 mL) BBr3 (0.64 mL, 6.64 mmol is added under stirring at room temperature. After stirring for 30 min the 4 mixture is diluted with CH2Cl2 and extracted twice with saturated brine. Drying of the organic phase with Na2SO4, evapopration of solvent, addition of hexanes to the residue, and filtration gives N-(1-dimethylamino-methylidene)-2-nitro-6-hydroxy-benzenesulfonamide.

reactant | N-[1-dimethylamino-methylidene]-2-nitro-6-methoxy-benzenesulfonamide | 3.33 mmol, 956 mg | CN(C=NS(=O)(=O)C1=C(C=CC=C1OC)[N+](=O)[O-])C | C10H13N3O5S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(1-dimethylamino-methylidene)-2-nitro-6-hydroxy-benzenesulfonamide | CN(C=NS(=O)(=O)C1=C(C=CC=C1O)[N+](=O)[O-])C | C9H11N3O5S
